US06252082B1
6-Methyl-2-oxo-4-(phenylmethyl)-3-[[(phenylmethyl)sulphonyl]amino]-1,2-dihydropyridine-1acetic Acid
1 ml (7.17 mmol) of triethylamine and 0.95 g (5 mmol) of (phenylmethyl)sulphonyl chloride are added to 1 g (3.5 mmol) of methyl 3-amino-6-methyl-2-oxo-4-(phenylmethyl)-1,2-dihydropyridine-1-acetate in solution in 30 ml of dichloromethane and the mixture is kept stirred for 12 hours at room temperature. The reaction medium is washed successively with 10 ml of water, 10 ml of a 1 N aqueous hydrochloric acid solution and then 10 ml of a saturated sodium chloride solution. The medium is dried over magnesium sulphate and evaporated. The residue is purified by chromatography on a silica gel column, eluting with a dichloromethane:methanol (98:2) mixture. The product is used as such in the hydrolysis stage which is carried out according to the procedure described in Example 3. 0.8 g of product is obtained in the form of a white powder.

reactant | triethylamine | 7.17 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | (phenylmethyl)sulphonyl chloride | 5 mmol, 0.95 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | methyl 3-amino-6-methyl-2-oxo-4-(phenylmethyl)-1,2-dihydropyridine-1-acetate | 3.5 mmol, 1 g | NC=1C(N(C(=CC1CC1=CC=CC=C1)C)CC(=O)OC)=O | C16H18N2O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-Methyl-2-oxo-4-(phenylmethyl)-3-[[(phenylmethyl)sulphonyl]amino]-1,2-dihydropyridine-1acetic Acid | 0.8 g, Yield=54% | CC1=CC(=C(C(N1CC(=O)O)=O)NS(=O)(=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N2O5S
